US08058299B2
According to the procedures described in Tetrahedron Lett. 1998, 39, 5891 and Org. Proc. Res. Dev. 2004, 8, 952, 3-chloro-4-{5-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-pyridin-2-yl}-benzoic acid (30 mg, 0.06 mmol), methanesulfonamide (7 mg, 0.07 mmol), 4-dimethylaminopyridine (2 mg, 0.02 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (14 mg, 0.07 mmol) were suspended in 3 mL of dichloromethane and the mixture was refluxed for 3 h. The reaction mixture was cooled down to room temperature and filtered. The white precipitates were washed with ethyl acetate. The combined filtrate was stirred with 150 mg of Amberlyst-15 at room temperature for 2 h. The reaction was filtered to remove the resin, and the filtrate was concentrated and purified by flash chromatography (eluting with ethyl acetate and hexanes) to afford 12 mg of 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid [6-(2-chloro-4-methanesulfonylaminocarbonyl-phenyl)-pyridin-3-yl]-amide as a light yellow solid. LCMS calcd for C24H16ClF3N4O5S (m/e) 564, obsd 565 (M+H).

reactant | 3-chloro-4-{5-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-pyridin-2-yl}-benzoic acid | 0.06 mmol, 30 mg | ClC=1C=C(C(=O)O)C=CC1C1=NC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C23H13ClF3N3O4
reactant | methanesulfonamide | 0.07 mmol, 7 mg | CS(=O)(=O)N | CH5NO2S
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.07 mmol, 14 mg | Cl.C(C)N=C=NCCCN(C)C
catalyst | 4-dimethylaminopyridine | 0.02 mmol, 2 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid [6-(2-chloro-4-methanesulfonylaminocarbonyl-phenyl)-pyridin-3-yl]-amide | 12 mg | ClC1=C(C=CC(=C1)C(=O)NS(=O)(=O)C)C1=CC=C(C=N1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C24H16ClF3N4O5S
